US07645752B2
To a solution of 3-phenylsulfonyl-4-(3-chloro-propyl)-1H-indole (0.255 g, 0.76 mmol) in anhydrous dioxane (5 mL) was added isopropylamine (0.65 mL, 7.64 mmol) and the reaction mixture heated to 70° C. in a sealed vessel for 7 days. The cooled reaction mixture was then diluted with 1 N aqueous NaOH (50 mL) and the resulting milky suspension extracted with ethyl acetate (50 mL). The organic phase was separated, washed with water (50 mL) and brine (50 mL), dried (Na2SO4), filtered and concentrated in vacuo to afford a yellow foam. Purification by flash chromatography (0 to 10% ammonia saturated methanol/dichloromethane) afforded N-isopropyl-3-[3-(phenylsulfonyl)-1H-indol-4-yl]propan-1-amine as a yellow foam (0.23 g, 86%). The product was dissolved in absolute ethanol (10 mL), 1.25 N HCl in ethanol (0.78 mL, 0.98 mmol, 1.5 equivalents) added, the mixture stirred for 15 min and then concentrated in vacuo to afford a yellow foam. The product was crystallized from 1:1 v/v ethanol:tert-butyl methyl ether (10 mL) to give the title compound as white crystals (0.172 g, 57%). MS (ES+) m/z 357.3 (M+H).

reactant | 3-phenylsulfonyl-4-(3-chloro-propyl)-1H-indole | 0.76 mmol, 0.255 g | C1(=CC=CC=C1)S(=O)(=O)C1=CNC2=CC=CC(=C12)CCCCl | C17H16ClNO2S
reactant | isopropylamine | 7.64 mmol, 0.65 mL | C(C)(C)N | C3H9N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | NaOH | 1 N, 50 mL | [OH-].[Na+]
product | N-isopropyl-3-[3-(phenylsulfonyl)-1H-indol-4-yl]propan-1-amine | 0.23 g, 86% | C(C)(C)NCCCC1=C2C(=CNC2=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C20H24N2O2S
